US07989438B2
Step 8: methyl 14-cyclohexyl-7(R,S)-{2-[methyl(N-methyl-β-alanyl)amino]ethyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
A solution of methyl 7(R,S)-{2-[[N-(tert-butoxycarbonyl)-N-methyl-β-alanyl](methyl)amino]ethyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.09 M) in DCM was treated with TFA (20 eq) and the resulting mixture was stirred overnight at RT. The reaction was diluted with EtOAc and the combined organic layers were washed with sat. aq. NaHCO3 then brine, before being dried (Na2SO4), filtered and concentrated in vacuo. The product was used directly in the next step without further purification. (ES+) m/z 532 (M+H)+.

reactant | methyl 7(R,S)-{2-[[N-(tert-butoxycarbonyl)-N-methyl-β-alanyl](methyl)amino]ethyl}-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.09 M | C(C)(C)(C)OC(=O)N(CCC(=O)N(CCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)C)C | C37H49N3O6
reactant | TFA | 20 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 14-cyclohexyl-7(R,S)-{2-[methyl(N-methyl-β-alanyl)amino]ethyl}-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCN(C(CCNC)=O)C)C(=O)OC | C32H41N3O4
